US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 2,4-dimethoxyphenylboronic acid (103.7 mg, 0.57 mmol, 1.50 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (10:1)) afforded 21 mg (18%) of 3-(2,4-dimethoxyphenyl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 2,4-dimethoxyphenylboronic acid | 0.57 mmol, 103.7 mg, 1.50 equiv | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
product | 3-(2,4-dimethoxyphenyl)-2-phenylquinoxaline-6-carboxylic acid | 21 mg, 18% | COC1=C(C=CC(=C1)OC)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C23H18N2O4
